US04136256
Preparation of N-[p-(2,2,2-trifluoro-N-hexadecylacetamido)benzoyloxy]succinimide
To stirred ice-cold solution of 18.3 g. of p-(2,2,2-trifluoro-N-hexadecylacetamido)benzoic acid in 80 ml. of dioxane is added successively 4.84 g. of N-hydroxysuccinimide and 9.16 g. of dicyclohexylcarbodiimide. After 18 hours at 0°-5° C. the mixture is stirred vigorously for one hour with hexane and water and filtered. The hexane layer is washed with water, dried over magnesium sulfate, and concentrated to give an oil.

reactant | p-(2,2,2-trifluoro-N-hexadecylacetamido)benzoic acid | FC(C(=O)N(CCCCCCCCCCCCCCCC)C1=CC=C(C(=O)O)C=C1)(F)F | C25H38F3NO3
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | N-hydroxysuccinimide | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | water | O | H2O
solvent | hexane | CCCCCC | C6H14
product | N-[p-(2,2,2-trifluoro-N-hexadecylacetamido)benzoyloxy]succinimide | FC(C(=O)N(CCCCCCCCCCCCCCCC)C1=CC=C(C(=O)ON2C(CCC2=O)=O)C=C1)(F)F | C29H41F3N2O5
